US06320081B1
Preparation of 1-(4-nitro-2,3,5,6-tetrafluorophenoxy)-3-benzyloxy-4-nitrobenzene
24.5 g of 2-benzyloxy-4-hydroxynitrobenzene (0.1 mol) and 21.3 g of pentafluoronitrobenzene (0.1 mol) are dissolved in 300 ml of γ-butyrolactone in a three-neck flask fitted with stirrer. 30 g of potassium carbonate (0.22 mol) are then added in portions, and the mixture is stirred at room temperature for 24 hours. The reaction solution is then filtered via a fluted filter, and the crude product is extracted by shaking with 200 ml of ethyl acetate and 300 ml of water. The organic phase is washed three times with water, dried over sodium sulfate and evaporated to half in a rotary evaporator. The precipitated crude product is then recrystallized from a mixture of methylene chloride and petrol ether (volume ratio 1:1) and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet.

reactant | 2-benzyloxy-4-hydroxynitrobenzene | 0.1 mol, 24.5 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O)[N+](=O)[O-] | C13H11NO4
reactant | pentafluoronitrobenzene | 0.1 mol, 21.3 g | FC1=C(C(=C(C(=C1[N+](=O)[O-])F)F)F)F | C6F5NO2
reactant | potassium carbonate | 0.22 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | γ-butyrolactone | 300 ml | C1(CCCO1)=O | C4H6O2
product | 1-(4-nitro-2,3,5,6-tetrafluorophenoxy)-3-benzyloxy-4-nitrobenzene | [N+](=O)([O-])C1=C(C(=C(OC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)C(=C1F)F)F)F | C19H10F4N2O6
